US08431593B2
K. 2-[2-((R)-3-METHYL-PIPERAZIN-1-YL)-2-OXO-ETHYL]-IMIDAZO[1,2-A]PYRIDINE-5-CARBOXYLIC ACID (ADAMANTAN-1-YLMETHYL)-AMIDE
To a solution of {5-[(adamantan-1-ylmethyl)-carbamoyl]-imidazo[1,2-a]pyridin-2-yl}-acetic acid (40 mg, 0.1 mmol) in DMF (1 mL) is sequentially added (R)-2-methyl-piperazine (43 mg, 0.44 mmol) and 96 mg of BOP (0.2 mmol). After stirring for 2 h at RT, the reaction mixture is diluted with EtOAc and water. The organic layer is separated, and the aqueous layer is back extracted with EtOAc. The combined organic layers are washed with water and brine, dried over sodium sulfate, and concentrated. Purification of the residue by PTLC (10% MeOH, 1% NH4OH in DCM) affords the title compound.

reactant | {5-[(adamantan-1-ylmethyl)-carbamoyl]-imidazo[1,2-a]pyridin-2-yl}-acetic acid | 0.1 mmol, 40 mg | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C2=CC=CC=3N2C=C(N3)CC(=O)O | C21H25N3O3
reactant | (R)-2-methyl-piperazine | 0.44 mmol, 43 mg | C[C@H]1NCCNC1 | C5H12N2
reactant | BOP | 0.2 mmol, 96 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 2-[2-((R)-3-METHYL-PIPERAZIN-1-YL)-2-OXO-ETHYL]-IMIDAZO[1,2-A]PYRIDINE-5-CARBOXYLIC ACID (ADAMANTAN-1-YLMETHYL)-AMIDE | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C2=CC=CC=3N2C=C(N3)CC(=O)N3C[C@H](NCC3)C | C26H35N5O2
